US05059597
e) 2-Methyl-3-oxa-2,7-diazabicyclo[3.3.0]octane
13 g (65 mmol) of ethyl 2-methyl-3-oxa-2,7-diazabicyclo[3.3.0]octane-7-carboxylate are heated under reflux in 300 ml of water with 41 g of Ba(OH)2.8H2O overnight. Potassium carbonate is added, the barium carbonate which has precipitated out is filtered off with suction and the filtrate is extracted ten times with 100 ml of chloroform each time. The extract is dried over potassium carbonate and concentrated and the residue is distilled.

reactant | ethyl 2-methyl-3-oxa-2,7-diazabicyclo[3.3.0]octane-7-carboxylate | 65 mmol, 13 g | CN1C2CN(CC2CO1)C(=O)OCC | C9H16N2O3
reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 300 ml | O | H2O
product | 2-Methyl-3-oxa-2,7-diazabicyclo[3.3.0]octane | CN1C2CNCC2CO1 | C6H12N2O
